US04879301
Preparation of 3-[1-(5-chloro-2-oxobenzothiazolin-3-yl-acetyl)piperidin-3-yl-oxycarbonyl]propionic acid:
A solution of 5-chloro-3-(3-hydroxypiperidinocarbonylmethyl)benzothiazolin-2-one (3.2 g) in dry pyridine (2.5 ml) and dry tetrahydrofuran (50 ml) was cooled. To the solution was dropwise added a solution of succinic anhydride (1.1 g) in dry tetrahydrofuran (5 ml) under stirring. The mixture was refluxed for two hours and then left overnight. The solvent was evaporated off under vacuum from the reaction mixture. The residue was dissolved in 5% aqueous sodium bicarbonate (20 ml). The resultant solution was cooled and adjusted to pH 2 with 1% hydrochloric acid. The precipitated crystals were collected by filtration, washed with water and then recrystallized from isopropyl alcohol to yield the title compound as colorless crystals (2.0 g). m.p. 131°-133° C.

reactant | 5-chloro-3-(3-hydroxypiperidinocarbonylmethyl)benzothiazolin-2-one | 3.2 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CC(CCC2)O)C1 | C14H15ClN2O3S
reactant | succinic anhydride | 1.1 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[1-(5-chloro-2-oxobenzothiazolin-3-yl-acetyl)piperidin-3-yl-oxycarbonyl]propionic acid | 2.0 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CC(CCC2)OC(=O)CCC(=O)O)C1 | C18H19ClN2O6S
